US05352690
1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl -6-methoxy benzene was prepared in 75% yield as a white solid from 1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl-6-hydroxy benzene and methyliodide.

reactant | 1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl-6-hydroxy benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1O)CC)OCCCCCC(C)(C)C#N | C24H31NO3
reactant | methyliodide | CI | CH3I
product | 1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl -6-methoxy benzene | 75% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)CC)OCCCCCC(C)(C)C#N | C25H33NO3
